US07326710B2
A mixture of N-benzyl-piperazine dihydrochloride (20 mmol, prepared by using the general preparation 3, yield 70%), 2-chloro-1-phenylethanone (24 mmol), K2CO3 (70 mmol) and KI(2 mmol) in 100 ml of acetone was treated according to the general preparation 2 to give N1-benzyl-N4-phenacyl piperazine dihydrochloride (67%).

reactant | N-benzyl-piperazine dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)N1CCNCC1
reactant | 2-chloro-1-phenylethanone | 24 mmol | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | K2CO3 | 70 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | N1-benzyl-N4-phenacyl piperazine dihydrochloride | 67% | Cl.Cl.C(C1=CC=CC=C1)N1CCN(CC1)CC(=O)C1=CC=CC=C1 | InChI=1S/C19H22N2O.2ClH/c22-19(18-9-5-2-6-10-18)16-21-13-11-20(12-14-21)15-17-7-3-1-4-8-17;;/h1-10H,11-16H2;2*1H
